US05292771
3-[(3-Carboxy-4-hydroxyphenyl)methylene]-2,4-pentanedione
A mixture containing 2 g 3-carboxy-4-hydroxybenzaldehyde, 4 ml 2,4-pentanedione and 20 ml tetrahydrofuran was saturated with hydrogen chloride gas. The solution was stirred for 2.0 h at 50° C. and evaporated to dryness in vacuo. The residue was crystallized from ethyl ether, mp. 112°-114° C.

reactant | 3-carboxy-4-hydroxybenzaldehyde | 2 g | C(=O)(O)C=1C=C(C=O)C=CC1O | C8H6O4
reactant | 2,4-pentanedione | 4 ml | CC(CC(C)=O)=O | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(3-Carboxy-4-hydroxyphenyl)methylene]-2,4-pentanedione | C(=O)(O)C=1C=C(C=CC1O)C=C(C(C)=O)C(C)=O | C13H12O5
